US05124327
Step B: 2-Phenylthiomethylindole
2-Hydroxymethylindole (6.94 g, 0.047 mol) and phenyldisulfide (10.8 g, 0.049 mol) were dissolved in tetrahydrofuran (200 mL) and cooled to 0° C. under nitrogen. Tri-n-butylphosphine (11.7 mL, 0.047 mol) was added and the reaction stirred for 1 h. Additional phenyldisulfide (1.5 g, 0.007) and tri-n-butylphosphine (5.1 mL, 0.20 mol) was added, and the reaction stirred at room temperature until complete. The tetrahydrofuran was removed in vacuo and the residue chromatographed on silica gel eluting with 5% ethyl acetate in hexane. The title compound was obtained as clear colorless plates, mp 100°-101.5° C. Anal. Calc. for C15H13NS: C, 75.27, H, 5.47, N, 5.85. Found: C, 74.52, H, 5.39, N, 5.95.

reactant | 2-Hydroxymethylindole | 0.047 mol, 6.94 g | OCC=1NC2=CC=CC=C2C1 | C9H9NO
reactant | phenyldisulfide | 0.049 mol, 10.8 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | Tri-n-butylphosphine | 0.047 mol, 11.7 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | phenyldisulfide | 1.5 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | tri-n-butylphosphine | 0.20 mol, 5.1 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 2-Phenylthiomethylindole | C1(=CC=CC=C1)SCC=1NC2=CC=CC=C2C1 | C15H13NS
